US04470973
(b) 1-[N-[2-(1,1-Dimethylethoxy)-2-oxoethyl]-N-[(phenylmethoxy)carbonyl]-L-alanyl]-L-proline, phenylmethyl ester
A mixture of L-alanyl-L-proline, phenylmethyl ester, p-toluenesulfonic acid salt (32.16 g., 72 mmole), tert-butyl bromoacetate (14.2 g., 72 mmole), triethylamine (20.1 ml., 144 mmole), and tetrahydrofuran (290 ml.) are stirred at room temperature for 72 hours. Benzyl chloroformate (12.4 ml., 87.8 mmole) and triethylamine (12.5 ml., 87.8 mmole) are added and the mixture stirred overnight. The reaction product is evaporated, and partitioned between water and ethyl acetate. The ethyl acetate solubles are washed with dilute hydrochloric acid and then water. The ethyl acetate solution is then evaporated and chromatographed over silica gel (mesh 230-400) using the solvent system ethyl acetate/hexane (1:1) (10 psi pressure) to give 19.5 g. of 1-[N-[2-(1,1-dimethylethylethoxy)-2-oxoethyl]-N-[(phenylmethoxy)carbonyl]-L-alanyl]-L-proline, phenylmethyl ester.

reactant | tert-butyl bromoacetate | 72 mmole, 14.2 g | BrCC(=O)OC(C)(C)C | C6H11BrO2
reactant | triethylamine | 144 mmole, 20.1 ml | C(C)N(CC)CC | C6H15N
reactant | Benzyl chloroformate | 87.8 mmole, 12.4 ml | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
reactant | triethylamine | 87.8 mmole, 12.5 ml | C(C)N(CC)CC | C6H15N
reactant | 1-[N-[2-(1,1-dimethylethylethoxy)-2-oxoethyl]-N-[(phenylmethoxy)carbonyl]-L-alanyl]-L-proline, phenylmethyl ester | CC(C)(C)C(C)OC(CN([C@@H](C)C(=O)N1[C@H](C(=O)OCC2=CC=CC=C2)CCC1)C(=O)OCC1=CC=CC=C1)=O | C31H40N2O7
solvent | tetrahydrofuran | 290 ml | O1CCCC1 | C4H8O
product | 1-[N-[2-(1,1-Dimethylethoxy)-2-oxoethyl]-N-[(phenylmethoxy)carbonyl]-L-alanyl]-L-proline, phenylmethyl ester | CC(C)(OC(CN([C@@H](C)C(=O)N1[C@H](C(=O)OCC2=CC=CC=C2)CCC1)C(=O)OCC1=CC=CC=C1)=O)C | C29H36N2O7
